US07259168B2
A solution of 2 g of 4-(3-chloro-4-methoxybenzylamino)-2-chloromethyl-5,6,7,8 tetrahydrobenzothieno[2,3-d]pyrimidine in 10 ml of DMF is treated with 5 ml of 3-aminopropanol and heated at 80° for one hour. It is then diluted with water and extracted with ethyl acetate. The crystalline product obtained after customary work-up is dissolved in alcoholic HCl and treated with ether until turbidity. 2.1 g of 4-(3-chloro-4-methoxybenzylamino)-2-(3-hydroxypropylaminomethyl)-5,6,7,8-tetrahydrobenzothieno[2,3-d]pyrimidine are obtained in the form of its dihydrochloride.

reactant | 4-(3-chloro-4-methoxybenzylamino)-2-chloromethyl-5,6,7,8 tetrahydrobenzothieno[2,3-d]pyrimidine | 2 g | ClC=1C=C(CNC=2C3=C(N=C(N2)CCl)SC2=C3CCCC2)C=CC1OC | C19H19Cl2N3OS
reactant | 3-aminopropanol | 5 ml | NCCCO | C3H9NO
reactant | ether | CCOCC | C4H10O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | HCl | Cl | ClH
product | 4-(3-chloro-4-methoxybenzylamino)-2-(3-hydroxypropylaminomethyl)-5,6,7,8-tetrahydrobenzothieno[2,3-d]pyrimidine | 2.1 g | ClC=1C=C(CNC=2C3=C(N=C(N2)CNCCCO)SC2=C3CCCC2)C=CC1OC | C22H27ClN4O2S
